US08258144B2
4-(5-cyano-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide
A mixture of 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (175 mg, 0.451 mmol), 4-aminobenzamide (122 mg, 0.897 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (4 mL) was stirred at 135° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (43 mg). MS 334.3 (M+H); UV 204.6, 230.2, 308.1 nm.

reactant | 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 0.451 mmol, 175 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C17H14ClN5O2S
reactant | 4-aminobenzamide | 0.897 mmol, 122 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 4 mL | C(CCC)O | C4H10O
product | 4-(5-cyano-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzamide | 43 mg | C(#N)C1=CNC=2N=C(N=C(C21)NC2CC2)NC2=CC=C(C(=O)N)C=C2 | C17H15N7O
